US07645882B2
Provided that, the substituent introduced to methylene at 4-position are not always present stably depending on the variation. For example, when to introduce pyridoxal residue to methylen at 4-position, 3-methyl-1-phenyl-2-pyrazolin-5-one is reacted with pyridoxal, then actually obtain not 4-(3-hydroxy-5-hydroxymethyl-2-methylpyridin-4-yl-methylene)-1-phenyl-2-pyrazolin-5-one, but 1-(5-hydroxy-3-methyl-1-phenyl-1H-4-yl)-6-methyl-1,3-dihydrofuro[3,4-c]pyridin-7-ol.

reactant | pyridoxal | CC1=C(C(=C(C=N1)CO)C=O)O | C8H9NO3
reactant | 3-methyl-1-phenyl-2-pyrazolin-5-one | CC1=NN(C(C1)=O)C1=CC=CC=C1 | C10H10N2O
product | 4-(3-hydroxy-5-hydroxymethyl-2-methylpyridin-4-yl-methylene)-1-phenyl-2-pyrazolin-5-one | OC=1C(=NC=C(C1C=C1C=NN(C1=O)C1=CC=CC=C1)CO)C | C17H15N3O3
